US05116858
5-(4'-Benzyloxyphenyl)-1-cyclohexyl-4-methyl-4-imidazolin-2-one (Compound No. 124)
2-Amino-4'-benzyloxypropiophenone hydrochloride (349 mg, 1.20 mmol) was suspended in acetone (30 ml) under ice-cooling, and cyclohexyl isocyanate (204 mg, 1.62 mmol) was added thereto. Triethylamine (377 mg, 3.73 mmol) was then added, and the mixture was stirred for one hour under ice-cooling. After addition of trifluoroacetic acid (2 ml), the mixture was stirred for 6 days at room temperature. The solvent was removed by evaporation in vacuo, and the residue was extracted with dichloromethane. The extract was washed successively with water and saturated aqueous sodium chloride, and dried over anhydrous magnesium sulfate. Evaporation of the solvent provided a crude product, which was purified by column chromatography (chloroform/ ethanol=50/1 (v/v)) and recrystalization (ethanol-chloroform) to give the title compound. Yield: 240 mg (55%), m.p. 262° C.

reactant | 2-Amino-4'-benzyloxypropiophenone hydrochloride | 1.20 mmol, 349 mg | Cl.NC(C(=O)C1=CC=C(C=C1)OCC1=CC=CC=C1)C
reactant | cyclohexyl isocyanate | 1.62 mmol, 204 mg | C1(CCCCC1)N=C=O | C7H11NO
reactant | Triethylamine | 3.73 mmol, 377 mg | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 5-(4'-Benzyloxyphenyl)-1-cyclohexyl-4-methyl-4-imidazolin-2-one | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=C(NC(N1C1CCCCC1)=O)C | C23H26N2O2
